US06713471B1
2-Benzamidoethyl methanesulfonate was prepared by following the general procedure of Example 43 for mesylation as a colorless oil (291 mg, 84%) from N-(2-hydroxyethyl)benzamide (245 mg, 1.30 mmol) and methanesulfonyl chloride (223 mg, 1.94 mmol). 1H NMR (CDCl3, 300 MHz) δ2.85 (s, 3H), 4.48 (t, 2H, J=9.5 Hz), 5.10 (t, 2H, J=10.2 Hz), 7.58-7.63 (m, 2H), 7.74-7.80 (m, 1H), 8.20-8.23 (m, 2H) ppm.

reactant | N-(2-hydroxyethyl)benzamide | 1.30 mmol, 245 mg | OCCNC(C1=CC=CC=C1)=O | C9H11NO2
reactant | methanesulfonyl chloride | 1.94 mmol, 223 mg | CS(=O)(=O)Cl | CH3ClO2S
product | 2-Benzamidoethyl methanesulfonate | CS(=O)(=O)OCCNC(C1=CC=CC=C1)=O | C10H13NO4S
